US05578627
To a suspension of 0.45 g of 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-formylamino-1,2-benzoisoxazole in 9 ml of methylene chloride are added 0.14 g of 3,4-dihydro-2H-pyran and 0.06 g of pyridinium p-toluenesulfonate at 20°-25° C., and they are subjected to reaction at 40° C. for one hour. Water is added to the reaction mixture and the pH is adjusted to 9 with a saturated aqueous sodium hydrogencarbonate solution, after which the organic layer is separated. The separated organic layer is dried over anhydrous magnesium sulfate, and the solvent is then removed by distillation under reduced pressure, to obtain oily 3-[2-tert-butoxycarbonylamino-3-(2,3,4,5-tetrahydropyranyloxy)propoxy]-5-formylamino-1,2-benzoisoxazole.

reactant | 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-formylamino-1,2-benzoisoxazole | 0.45 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)NC=O)CO | C16H21N3O6
reactant | 3,4-dihydro-2H-pyran | 0.14 g | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 0.06 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 3-[2-tert-butoxycarbonylamino-3-(2,3,4,5-tetrahydropyranyloxy)propoxy]-5-formylamino-1,2-benzoisoxazole | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)NC=O)COC2OCCCC2 | C21H29N3O7
